US07812020B2
1aa (2,4-Dimethyl-6-morpholin-4-yl-pyridin-3-yl)-carbamic acid benzyl ester
Benzyl chloroformate (18 mg) was added to a solution of 0.085 M 2,4-dimethyl-6-morpholin-4-yl-pyridin-3-ylamine and 0.17 M N,N-diisopropyl-ethylamine in 1,2-dichloroethane (1 mL). The vial was shaken for 16 hours under argon and concentrated in vacuo. Aqueous sodium hydroxide (1 M, 1 mL) was added and the crude mixture was extracted with isopropyl acetate/tetrahydrofuran (4:1, 2×1 mL). The organic phase was washed with brine (1 mL), concentrated in vacuo and redissolved in 1-propanol/dimethyl sulfoxide (1:1, 0.4 mL) of which 0.2 mL was subjected to preparative LC-MS purification to furnish 4.5 mg (31% yield) of the title compound as an oil. LC-MS (m/z) 342 (MH+); tR=1.58, (UV, ELSD) 99%, 99%.

reactant | Benzyl chloroformate | 18 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 2,4-dimethyl-6-morpholin-4-yl-pyridin-3-ylamine | 0.085 M | CC1=NC(=CC(=C1N)C)N1CCOCC1 | C11H17N3O
reactant | N,N-diisopropyl-ethylamine | 0.17 M | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
product | (2,4-Dimethyl-6-morpholin-4-yl-pyridin-3-yl)-carbamic acid benzyl ester | 4.5 mg, 31% yield | C(C1=CC=CC=C1)OC(NC=1C(=NC(=CC1C)N1CCOCC1)C)=O | C19H23N3O3
